US09447091B2
d) N-(3-(2-amino-4-bromophenylamino)-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide
To a solution of the compound of Example 155(c) N-(3-(4-bromo-2-nitro-phenylamino)-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide (5.2 g, 12.5 mmol) in ethanol (100 ml) were added calcium chloride (2.78 g, 25 mmol, 2 eq.) and iron powder (1.3 g, 25 mmol, 2 eq.) and the mixture was heated at 100° C. for 4 h and filtered. The filtrate was diluted with water and extracted as in Example 1(d). The solvent was distilled off and the crude residue was directly used for the next step.

reactant | N-(3-(4-bromo-2-nitro-phenylamino)-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide | 12.5 mmol, 5.2 g | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)N1N=CN=C1)NC(C)=O)[N+](=O)[O-] | C16H13BrN6O3
reactant | calcium chloride | 25 mmol, 2.78 g, 2 eq. | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | iron | 25 mmol, 1.3 g, 2 eq. | [Fe] | Fe
product | N-(3-(2-amino-4-bromophenylamino)-5-(1H-1,2,4-triazol-1-yl)phenyl)acetamide | NC1=C(C=CC(=C1)Br)NC=1C=C(C=C(C1)N1N=CN=C1)NC(C)=O | C16H15BrN6O
